* Z:\home\danieltyukov\workspace\tud\tud-analog-cmos-design-1\hw1\Simulation_1.asc
Mp1 Vsp Vbp Vdd Vdd pch l=L w=W m=Mp
Mp2 Vbp Vcp Vsp Vdd pch l=L w=W m=Mp
Mp3 Vcp Vcp Vdd Vdd pch l={L} w={W} m={Mp}
Mn1 Vsn 0 0 0 nch l=L w=W m={Mn}
Mn2 0 Vcn Vsn 0 nch l=L w=W m={Mn}
Mn3 Vcn Vcn 0 0 nch l=L w=W m={Mn}
Vdd Vdd 0 1.8
Ibm Vbp 0 {Ibm}
Ibn Vdd Vcn {Ibm*Rn}
Ibp Vcp 0 {Ibm*Rp}
Mp4 N001 Vbp Vdd Vdd pch l=L w=W m=Mp
Mp5 Vop Vcp N001 Vdd pch l=L w=W m=Mp
Mn4 Ion Vcn N002 0 nch l=L w=W m={Mn}
Mn5 N002 0 0 0 nch l=L w=W m={Mn}
C1 Vdd Vbp 1
C2 Vdd Vcp 1
C3 Vcn 0 1
C4 0 0 1
Vop Vop 0 1
Von Ion 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\danieltyukov\Documents\LTspiceXVII\lib\cmp\standard.mos
.param W=1u L=0.18u Mp=60 Mn=11 Ibm=200u Rn=5.8 Rp=7.5
;step param Mn list 5,10,15
.op
;dc param Rn 3 9 0.1
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
;dc param Rp 3 12 0.1
;dc Vop 0 1.8 0.01
.backanno
.end
